US07700607B2
To a resealable pressure vessel charged with 3-bromo-2-chloro-4-picoline (1.200 g, 5.81 mmol) was added formic acid (13.1 ml, 348 mmol) and water (4.00 ml, 222 mmol). The tube was sealed and the solution heated to 120° C. After 72 hrs, the solution was cooled to RT and concentrated in vacuo. The residue was purified by reverse phase chromatography (neutral) to afford 3-bromo-4-methylpyridin-2(1H)-one as a white solid. M+H+=188.0.

reactant | 3-bromo-2-chloro-4-picoline | 5.81 mmol, 1.200 g | BrC=1C(=NC=CC1C)Cl | C6H5BrClN
reactant | formic acid | 348 mmol, 13.1 ml | C(=O)O | CH2O2
reactant | water | 222 mmol, 4.00 ml | O | H2O
product | 3-bromo-4-methylpyridin-2(1H)-one | BrC=1C(NC=CC1C)=O | C6H6BrNO
